US04528375
A. N-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethyl}ethanediimidamide trihydrochloride hydrate
A suspension of 3-amino-4-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide (6.56 g; 20.0 mmoles) [prepared according to published U.K. patent application No. 2,067,987] in 200 mL of methanol was warmed slightly to achieve complete solution, then treated with 13.3 mL of concentrated HCl. After stirring at ambient temperature for 2.5 hours, the solution was concentrated and the residue was triturated with 70 mL of absolute ethanol. The crystals were collected by filtration and dried under vacuum to give 4.3 g (52%) of the title compound, m.p. 166°-169° C. (dec.).

reactant | 3-amino-4-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | 20.0 mmoles, 6.56 g | NC1=NS(N=C1NCCSCC=1OC(=CC1)CN(C)C)=O | C12H19N5O2S2
reactant | HCl | 13.3 mL | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
product | N-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethyl}ethanediimidamide trihydrochloride hydrate | 4.3 g, 52% | O.Cl.Cl.Cl.CN(C)CC1=CC=C(O1)CSCCNC(C(N)=N)=N | InChI=1S/C12H21N5OS.3ClH.H2O/c1-17(2)7-9-3-4-10(18-9)8-19-6-5-16-12(15)11(13)14;;;;/h3-4H,5-8H2,1-2H3,(H3,13,14)(H2,15,16);3*1H;1H2
